US07732440B2
(3,3-Difluorocyclopentyl)methanol
6.4 ml of a 1M solution of lithium aluminum hydride in THF are initially charged in 40 ml of diethyl ether. With ice cooling, 1.12 g of ethyl 3,3-difluoro-cyclopentanecarboxylate dissolved in 10 ml of diethyl ether are added dropwise under argon. After one hour, the cooling bath is removed, and the reaction mixture is stirred for another three hours. The reaction mixture is then poured onto ice-cold saturated ammonium chloride solution and filtered off over a filtration aid. The filtrate is washed with saturated NaHCO3 solution, dried over MgSO4 and concentrated under reduced pressure. This gives 625 mg of (3,3-difluorocyclopentyl)methanol.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3,3-difluoro-cyclopentanecarboxylate | 1.12 g | FC1(CC(CC1)C(=O)OCC)F | C8H12F2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | (3,3-Difluorocyclopentyl)methanol | FC1(CC(CC1)CO)F | C6H10F2O
